US08124606B2
Compound 105A: (S)-tert-butyl 4-(4-cyanophenyl)-2-methylpiperazine-1-carboxylate:
(S)-tert-butyl 2-methylpiperazine-1-carboxylate (1 g, 4.99 mmol), 4-fluorobenzonitrile (0.605 g, 4.99 mmol), and K2CO3 (0.897 g, 6.49 mmol) were combined into a vial equipped with a stir bar. The reaction was heated to 110° C. for 48 h. Cooled to RT, diluted with EA and filtered. Concentrated to a clear oil and purified on silica gel (80 g, 10-20% EA in Hex) to give a clear oil (450 mg, 30% yield) which became a crystalline solid upon sitting. [M+H] calc'd for C17H23N3O2, 301; found, 301.

reactant | (S)-tert-butyl 2-methylpiperazine-1-carboxylate | 4.99 mmol, 1 g | C[C@@H]1N(CCNC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | 4-fluorobenzonitrile | 4.99 mmol, 0.605 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | K2CO3 | 6.49 mmol, 0.897 g | C(=O)([O-])[O-].[K+].[K+]
solvent | EA | CC(OCC)=O | C4H8O2
product | (S)-tert-butyl 4-(4-cyanophenyl)-2-methylpiperazine-1-carboxylate | 450 mg, 30% yield | C(#N)C1=CC=C(C=C1)N1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C17H23N3O2
